US06410585B1
5-{(2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[(4-hydroxybutyl)amino]-3-oxopropyl}-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid and 4-amino-1-butanol (21 ul) according to Method A to give a material which was re-purified by reversed phase C-18 HPLC in absence of trifluoroacetic acid to give the title compound (19 mg). 1H-NMR (400 MHz, CD3OD) d 7.75 (s, 1H), 7.40 (d, J=8.3 Hz, 1H), 7.28-7.18 (m, 5H), 7.04 (d, J=8.8 Hz, 1H), 4.79 (s, 2H), 4.51 (m, 1H), 4.24 (dd, J=5.2 Hz, J=9.2 Hz, 1H), 3.52 (m, 1H), 3.18 (m, 1H), 3.09-2.92 (m, 4H), 2.75 (m, 1H), 1.45 (m, 4H), 1.36 (s, 9H); HRMS m/z 601.2616 (calc. of monoisotopic mass for C30H39N3O10 gives 601.2635).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | 4-amino-1-butanol | 21 ul | NCCCCO | C4H11NO
product | 5-{(2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[(4-hydroxybutyl)amino]-3-oxopropyl}-2-(carboxymethoxy)benzoic Acid | 19 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(=O)NCCCCO)CC1=CC=CC=C1 | C30H39N3O10
